US07309718B2
(e) 3-Methoxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one
To 50 ml of a methylene chloride solution containing 1.80 g (7.0 mmol) of 2-[2-(4-methoxyphenyl)ethyl]benzoic acid were added 1.83 ml (13 mmol) of trifluoroacetic anhydride and 0.8 ml (6.3 mmol) of boron trifluoride ethyl ether complex and the mixture was stirred at room temperature for 5 hours.

reactant | 2-[2-(4-methoxyphenyl)ethyl]benzoic acid | 7.0 mmol, 1.80 g | COC1=CC=C(C=C1)CCC1=C(C(=O)O)C=CC=C1 | C16H16O3
reactant | trifluoroacetic anhydride | 13 mmol, 1.83 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-Methoxy-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | COC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C1 | C16H14O2
